US04517195
[2-(2-Chlorobenzoyl)-1H-pyrrol-1-yl]-methyl-carbamic acid, ethyl ester
[2-(2-Chlorobenzoyl)-1H-pyrrol-1-yl]-carbamic acid, ethyl ester (22 g, 75.1 mmol), sodium carbonate (16.0 g, 0.112 mol) and methyl iodide (13 g, 0.122 mol) were added to 100 ml of dry DMF and the mixture stirred at ambient temperature for 78 hours. The reaction was quenched with 1 liter of H2O and extracted with five 200 ml portions of diethyl ether. The combined extracts were washed with water and brine, dried (MgSO4), filtered, and evaporated to give 15 g of solid. This solid was purified by HPLC (silica gel, DCM) to give 13.1 g (57%) of crystals, m.p. 54°-56°.

reactant | [2-(2-Chlorobenzoyl)-1H-pyrrol-1-yl]-carbamic acid, ethyl ester | 75.1 mmol, 22 g | ClC1=C(C(=O)C=2N(C=CC2)NC(OCC)=O)C=CC=C1 | C14H13ClN2O3
reactant | sodium carbonate | 0.112 mol, 16.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | methyl iodide | 0.122 mol, 13 g | CI | CH3I
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | [2-(2-Chlorobenzoyl)-1H-pyrrol-1-yl]-methyl-carbamic acid, ethyl ester | 15 g | ClC1=C(C(=O)C=2N(C=CC2)N(C(OCC)=O)C)C=CC=C1 | C15H15ClN2O3
